US04444584
A mixture of 3-(4-hydroxyphenoxy)quinoline (2.4 g), ethyl 2-bromopropionate (2.1 g), anhydrous potassium carbonate (3.3 g) and dimethylformamide (50 ml) was stirred and heated at 80° C. for 4 hours. The mixture was poured into water (500 ml) and extracted with diethyl ether (2×100 ml). The ether extracts were dried, evaporated to dryness and then chromatographed on silica gel (100 g) with dichloromethane elution. Ethyl 2-[4-(3-quinolinyloxy)phenoxy]-propionate was obtained as a pale yellow oil (1.9 g). Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 8.75 (1H, d); 8.1 (1H, bd); 7.7-7.3 (4H, m); 7.0 (4H, s, phenoxy protons); 4.75 (1H, q, CH--CH3); 4.25 (2H, q, OCH2 --CH3); 1.65 (3H, d, CH--CH3); 1.25 (3H, t, OCH2 --CH3).

reactant | 3-(4-hydroxyphenoxy)quinoline | 2.4 g | OC1=CC=C(OC=2C=NC3=CC=CC=C3C2)C=C1 | C15H11NO2
reactant | ethyl 2-bromopropionate | 2.1 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | Ethyl 2-[4-(3-quinolinyloxy)phenoxy]-propionate | N1=CC(=CC2=CC=CC=C12)OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H19NO4
